US07767678B2
4-[(2,4-Dichloro-5-methoxyphenyl)amino]-6-methoxy-7-[3-(4-methyl-1-piperazinyl)propoxy]-3-quinolinecarbonitrile, Form II (1.0 g) was refluxed for 16 hours with 30 ml of water. The mixture was cooled to room temperature and filtered. The cake was washed with 10 ml of water and vacuum dried at 45° C. to give 0.89 g of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-[3-(4-methyl-1-piperazinyl)propoxy]-3-quinolinecarbonitrile monohydrate, Form I by XRD scans.

reactant | 4-[(2,4-Dichloro-5-methoxyphenyl)amino]-6-methoxy-7-[3-(4-methyl-1-piperazinyl)propoxy]-3-quinolinecarbonitrile | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C)C#N | C26H29Cl2N5O3
solvent | water | 30 ml | O | H2O
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-[3-(4-methyl-1-piperazinyl)propoxy]-3-quinolinecarbonitrile monohydrate | 0.89 g | O.ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C)C#N | InChI=1S/C26H29Cl2N5O3.H2O/c1-32-6-8-33(9-7-32)5-4-10-36-25-13-21-18(11-24(25)35-3)26(17(15-29)16-30-21)31-22-14-23(34-2)20(28)12-19(22)27;/h11-14,16H,4-10H2,1-3H3,(H,30,31);1H2
